US06414179B1
Methyl 3-(4-tert-butyldimethylsilyloxyphenyl)propionate
A solution of methyl 3-(4-hydroxyphenyl)propionate (5 g, 27.7 mmol) and chlorotert-butyldimethylsilane (5 g, 33.3 mmol) in DMF was treated with triethylamine (4.6 ml). The mixture was stirred at room temperature for 20 hours. More chlorotert-butyldimethylsilane (0.8 g) and triethylamine (0.8 ml) were added, the resulting mixture was stirred at room temperature for another 2 hours, poured into saturated aqueous sodium bicarbonate (500 ml). The mixture was stirred at room temperature for 5 minutes and extracted with ether. The organic phase was washed with brine, dried over sodiun sulfate and concentrated in vacuo. Bulb-to-bulb distillation gave the title material (7.39 g, 91%) as a colorless oil (b.p. 104-105° C./0.025 mm Hg).

reactant | methyl 3-(4-hydroxyphenyl)propionate | 27.7 mmol, 5 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | chlorotert-butyldimethylsilane | 33.3 mmol, 5 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotert-butyldimethylsilane | 0.8 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 3-(4-tert-butyldimethylsilyloxyphenyl)propionate | 7.39 g, 91% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(=O)OC | C16H26O3Si
